US07279469B2
N3-(2,4-Dimethoxy-phenyl)-1-(2-fluoro-phenyl)-1H-[1,2,4]triazole-3,5-diamine:
A mixture of N-cyano-N′-(2,4-dimethoxyphenyl)-O-phenylisourea (0.10 g, 0.34 mmol), 2-fluoro-phenylhydrazine hydrochloride (0.08 g, 0.50 mmol) and triethylamine (0.01 mL, 0.68 mmol) in isopropanol (3 mL) was heated at 100° C. for 18 h and evaporated. Purification by flash chromatography (SiO2) eluted with 1:1 ethyl acetate:hexanes provided the title compound (0.10 g, 85% yield).

reactant | N-cyano-N′-(2,4-dimethoxyphenyl)-O-phenylisourea | 0.34 mmol, 0.10 g | C(#N)NC(OC1=CC=CC=C1)=NC1=C(C=C(C=C1)OC)OC | C16H15N3O3
reactant | 2-fluoro-phenylhydrazine hydrochloride | 0.50 mmol, 0.08 g | Cl.FC1=C(C=CC=C1)NN
reactant | triethylamine | 0.68 mmol, 0.01 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | N3-(2,4-Dimethoxy-phenyl)-1-(2-fluoro-phenyl)-1H-[1,2,4]triazole-3,5-diamine | 0.10 g, 85% yield | COC1=C(C=CC(=C1)OC)NC1=NN(C(=N1)N)C1=C(C=CC=C1)F | C16H16FN5O2
